US09253997B2
Synthesis of 3-({[(2S)-2-amino-3-phenylpropoxy]carbonyl}amino)-5-chloro-2-hydroxybenzene-1-sulfonic acid
285 mg (1 mmol) of (S)-2-(benzyloxycarbonylamino)-3-phenyl-1-propanol, 223 mg (1 mmol) of 3-amino-5-chloro-2-hydroxybenzenesulfonic acid and 100 mg (0.33 mmol) of triphosgene were suspended in 3 ml of methylene chloride, to which 0.7 ml of pyridine was dropwisely added. Following agitation at room temperature overnight, the solvent was distilled away, and the resultant was purified using purification step A to obtain a crude purified substance of the title compound in protected form. To the obtained crude purified substance, 2 ml of 48% hydrogen bromide-acetic acid solution was added, and the resultant was stirred at room temperature for 2 hours. The solvent was distilled away and water and acetonitrile were added to the obtained residue for deposition. The deposited solid substance was filtrated to obtain the title compound.

reactant | (S)-2-(benzyloxycarbonylamino)-3-phenyl-1-propanol | 1 mmol, 285 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](CO)CC1=CC=CC=C1 | C17H19NO3
reactant | 3-amino-5-chloro-2-hydroxybenzenesulfonic acid | 1 mmol, 223 mg | NC=1C(=C(C=C(C1)Cl)S(=O)(=O)O)O | C6H6ClNO4S
reactant | triphosgene | 0.33 mmol, 100 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | pyridine | 0.7 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 3-({[(2S)-2-amino-3-phenylpropoxy]carbonyl}amino)-5-chloro-2-hydroxybenzene-1-sulfonic acid | N[C@H](COC(=O)NC=1C(=C(C=C(C1)Cl)S(=O)(=O)O)O)CC1=CC=CC=C1 | C16H17ClN2O6S
